US05763458
Proceeding as in Example 10, but replacing 1-bromopropane with iodobutane and 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one with 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-(piperidin-4-yl)propan-1-one, gave 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-[1-(but-1-yl)-piperidin-4-yl]propan-1-one hydrochloride, m.p. 265°-267° C.

reactant | iodobutane | ICCCC | C4H9I
reactant | 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one | NC1=CC(=C(C=C1Cl)C(CCC1CCNCC1)=O)OC | C15H21ClN2O2
reactant | 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-(piperidin-4-yl)propan-1-one | NC1=C2C(=C(C=C1Cl)C(CCC1CCNCC1)=O)OCCO2 | C16H21ClN2O3
product | 1-(4-amino-5-chloro-2,3-ethylenedioxyphenyl)-3-[1-(but-1-yl)-piperidin-4-yl]propan-1-one hydrochloride | Cl.NC1=C2C(=C(C=C1Cl)C(CCC1CCN(CC1)CCCC)=O)OCCO2 | InChI=1S/C20H29ClN2O3.ClH/c1-2-3-8-23-9-6-14(7-10-23)4-5-17(24)15-13-16(21)18(22)20-19(15)25-11-12-26-20;/h13-14H,2-12,22H2,1H3;1H
